US06090836
Using the procedure in Example 51, step 1, 4-chlorophenyl-acetic acid and 2-(n-propyl)resorcinol were condensed in triflic acid to form 4-(4-chlorophenylacetyl)-1,3-dihydroxy-2-(n-propyl)benzene.

reactant | 4-chlorophenyl-acetic acid | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | 2-(n-propyl)resorcinol | C(CC)C1=C(O)C=CC=C1O | C9H12O2
solvent | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 4-(4-chlorophenylacetyl)-1,3-dihydroxy-2-(n-propyl)benzene | ClC1=CC=C(C=C1)CC(=O)C1=C(C(=C(C=C1)O)CCC)O | C17H17ClO3
